US04159984
To a solution of 5.8 g of benzyl α-(3ξ-carboxy-2-benzoyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate dissolved in a mixture of 70 ml of benzene and 0.14 ml of N,N-dimethylformamide is added 1.33 ml of oxalyl chloride at room temperature under nitrogen atmosphere, and the mixture allowed to stand for 30 minutes, and concentrated to 1/2 volume. The resulting solution of benzyl α-(3ξ-chlorocarbonyl-2-benzoyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate is mixed under ice-cooling with an ether solution of diazomethane prepared from 4 g of N-nitrosomethylurea. The resulting solution of benzyl α-(3ξ-diazoacetyl-2-benzoyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate is mixed with 2.1 ml of ether containing 0.47 g of hydrogen chloride at 0° C., and after 2 hours, evaporated to yield 6.3 g of benzyl α-(3ξ-chloroacetyl-2-benzoyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate as an yellow-brown oil.

reactant | benzyl α-(3ξ-carboxy-2-benzoyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 5.8 g | C(=O)(O)C1N(C2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)C(C1=CC=CC=C1)=O | C24H22N2O7
reactant | oxalyl chloride | 1.33 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzyl α-(3ξ-diazoacetyl-2-benzoyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | [N+](=[N-])=CC(=O)C1N(C2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)C(C1=CC=CC=C1)=O | C25H22N4O6
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylformamide | 0.14 ml | CN(C=O)C | C3H7NO
solvent | ether | 2.1 ml, 0.47 g | CCOCC | C4H10O
product | benzyl α-(3ξ-chloroacetyl-2-benzoyl-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 6.3 g | ClCC(=O)C1N(C2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)C(C1=CC=CC=C1)=O | C25H23ClN2O6
